data/my_data/train.txt
[C+:2]([CH3:3])([CH3:4])[CH3:5].[OH2:1].C[C@H](N)C(=O)N[C@@H](CC1CC1)C(=O)N[C@@H](Cc1ccccc1)C(=O)[C@@]1(C)CO1.O=C=O>>[C:2]([CH3:3])([CH3:4])=[CH2:5].[OH3+:1].C[C@H](N)C(=O)N[C@@H](CC1CC1)C(=O)N[C@@H](Cc1ccccc1)C(=O)[C@@]1(C)CO1.O=C=O
[CH3:2][O:3][C:4](=[O:5])[CH2:6][CH2:7][c:8]1[cH:9][cH:10][cH:11][c:12]([CH2:13][NH+:14]([CH2:15][c:16]2[cH:17][cH:18][c:19]3[c:20]([cH:21]2)[O:22][CH2:23][O:24]3)[S:25](=[O:27])([O-:26])([Cl:1])[c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[cH:34]1>>[Cl-:1].[CH3:2][O:3][C:4](=[O:5])[CH2:6][CH2:7][c:8]1[cH:9][cH:10][cH:11][c:12]([CH2:13][NH+:14]([CH2:15][c:16]2[cH:17][cH:18][c:19]3[c:20]([cH:21]2)[O:22][CH2:23][O:24]3)[S:25](=[O:26])(=[O:27])[c:28]2[cH:29][cH:30][cH:31][cH:32][cH:33]2)[cH:34]1
[CH3:3][O:4][C:5](=[O:6])[c:7]1[cH:8][c:9]([C:10]([CH3:11])=[N:12][NH2:13])[c:14]([O:15][CH3:16])[cH:17][c:18]1[O:19][CH3:20].[OH-:2].O.[OH3+]>>[CH3:3][O:4][C:5](=[O:6])[c:7]1[cH:8][c:9]([C-:10]([CH3:11])[N:12]=[NH:13])[c:14]([O:15][CH3:16])[cH:17][c:18]1[O:19][CH3:20].[OH2:2].O.[OH3+]
[Br:1][CH2:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1.[CH3:9][N:10]([CH2:11][CH2:12][O:13][Si:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27]([CH3:28])([CH3:29])[CH3:30])[C:31](=[O:32])[OH:33]>>[Br:1][CH2:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1.[CH3:9][NH+:10]([CH2:11][CH2:12][O:13][Si:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27]([CH3:28])([CH3:29])[CH3:30])[C:31](=[O:32])[O-:33]
[C:12]([NH:13][CH:14]1[CH2:15][CH2:16][CH2:17][CH2:18][CH2:19]1)(=[N:20][CH:21]1[CH2:22][CH2:23][CH2:24][CH2:25][CH2:26]1)[O:27][C:28]([c:29]1[cH:30][n:31][c:32]([O:33][CH2:34][CH2:35][O:36][CH3:37])[c:38](-[c:39]2[cH:40][cH:41][c:42]([F:43])[c:44]([F:45])[cH:46]2)[cH:47]1)=[O:48].[NH2:1][CH2:2][c:3]1[n:4][c:5]([C:6]([F:7])([F:8])[F:9])[n:10][o:11]1>>[NH2+:1]([CH2:2][c:3]1[n:4][c:5]([C:6]([F:7])([F:8])[F:9])[n:10][o:11]1)[C:28]([O:27][C:12]([NH:13][CH:14]1[CH2:15][CH2:16][CH2:17][CH2:18][CH2:19]1)=[N:20][CH:21]1[CH2:22][CH2:23][CH2:24][CH2:25][CH2:26]1)([c:29]1[cH:30][n:31][c:32]([O:33][CH2:34][CH2:35][O:36][CH3:37])[c:38](-[c:39]2[cH:40][cH:41][c:42]([F:43])[c:44]([F:45])[cH:46]2)[cH:47]1)[O-:48]
[NH:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[C:8]([O:9][C:10]([NH:11][CH:12]1[CH2:13][CH2:14][CH2:15][CH2:16][CH2:17]1)=[NH+:18][CH:19]1[CH2:20][CH2:21][CH2:22][CH2:23][CH2:24]1)([C@@H:25]([NH:26][C:27](=[O:28])[c:29]1[cH:30][cH:31][c:32]([Cl:33])[cH:34][c:35]1[NH:36][S:37](=[O:38])(=[O:39])[c:40]1[cH:41][cH:42][cH:43][c:44]2[n:45][s:46][n:47][c:48]12)[CH2:49][c:50]1[cH:51][cH:52][c:53]([Cl:54])[c:55]([Cl:56])[cH:57]1)[O-:58]>>[NH:1]([c:2]1[cH:3][cH:4][cH:5][cH:6][cH:7]1)[C:8]([C@@H:25]([NH:26][C:27](=[O:28])[c:29]1[cH:30][cH:31][c:32]([Cl:33])[cH:34][c:35]1[NH:36][S:37](=[O:38])(=[O:39])[c:40]1[cH:41][cH:42][cH:43][c:44]2[n:45][s:46][n:47][c:48]12)[CH2:49][c:50]1[cH:51][cH:52][c:53]([Cl:54])[c:55]([Cl:56])[cH:57]1)=[O:58].[O-:9][C:10]([NH:11][CH:12]1[CH2:13][CH2:14][CH2:15][CH2:16][CH2:17]1)=[NH+:18][CH:19]1[CH2:20][CH2:21][CH2:22][CH2:23][CH2:24]1
[CH3:1][C:2]([CH3:3])([CH3:4])[O:5][C:6](=[OH+:7])[NH:8][c:9]1[cH:10][c:11]([C:12]#[N:13])[cH:14][c:15]([C:16]([CH3:17])([CH3:18])[CH3:19])[cH:20]1.O>>[CH3:1][C+:2]([CH3:3])[CH3:4].[OH:5][C:6](=[O:7])[NH:8][c:9]1[cH:10][c:11]([C:12]#[N:13])[cH:14][c:15]([C:16]([CH3:17])([CH3:18])[CH3:19])[cH:20]1.O
[Br-:35].[Cl:1][c:2]1[cH:3][cH:4][c:5]2[c:6]([cH:7]1)[CH2:8][NH+:9]([CH2:10][c:11]1[cH:12][cH:13][cH:14][cH:15][n:16]1)[CH2:17][c:18]1[n:19][n:20][c:21]([C@H:22]3[CH2:23][CH2:24][C@H:25]([c:26]4[cH:27][cH:28][cH:29][cH:30][cH:31]4)[CH2:32][CH2:33]3)[n:34]1-2>>[BrH:35].[Cl:1][c:2]1[cH:3][cH:4][c:5]2[c:6]([cH:7]1)[CH2:8][N:9]([CH2:10][c:11]1[cH:12][cH:13][cH:14][cH:15][n:16]1)[CH2:17][c:18]1[n:19][n:20][c:21]([C@H:22]3[CH2:23][CH2:24][C@H:25]([c:26]4[cH:27][cH:28][cH:29][cH:30][cH:31]4)[CH2:32][CH2:33]3)[n:34]1-2
[CH3:7][NH:8][c:9]1[cH:10][cH:11][c:12](-[c:13]2[n:14][c:15]3[cH:16][cH:17][c:18]([O:1][B:2]([Br:3])[Br:4])[cH:20][c:21]3[o:22]2)[cH:23][n:24]1.[CH3:5][Br:6].[OH2:19]>>[OH2+:1][B:2]([Br:3])[Br:4].[CH3:5][Br:6].[CH3:7][NH:8][c:9]1[cH:10][cH:11][c:12](-[c:13]2[n:14][c:15]3[cH:16][cH:17][c:18]([O-:19])[cH:20][c:21]3[o:22]2)[cH:23][n:24]1
[O:4]=[S:3]([O-:2])([Cl:1])([c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[NH+:11]1[CH2:31][CH:13]([O:14][CH:15]([c:16]2[cH:17][cH:18][c:19]([Cl:20])[cH:21][cH:22]2)[c:23]2[cH:24][cH:25][c:26]([Cl:27])[cH:28][c:29]2[Cl:30])[CH2:12]1>>[Cl-:1].[O:2]=[S:3](=[O:4])([c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1)[NH+:11]1[CH2:12][CH:13]([O:14][CH:15]([c:16]2[cH:17][cH:18][c:19]([Cl:20])[cH:21][cH:22]2)[c:23]2[cH:24][cH:25][c:26]([Cl:27])[cH:28][c:29]2[Cl:30])[CH2:31]1
